US07405305B2
d) N-(7-Cyanomethylbenzofur-4-yl)acetamide
Add (4-nitrobenzofur-7-yl)acetonitrile (600 mg, 2.96 mmol), acetic anhydride (600 mg, 5.88 mmol), and 5% palladium on carbon (300 mg) to tetrahydrofuran (25 mL). Stir under hydrogen (1 atm) for 45 minutes. Dilute with ethyl acetate, filter through a pad of Celite®, and concentrate under reduced pressure. Chromatograph on flash silica using 75% ethyl acetate, 25% hexane gives 430 mg (67%) of the title compound as an off-white solid. HRMS (M+H)=215.0816.

reactant | (4-nitrobenzofur-7-yl)acetonitrile | 2.96 mmol, 600 mg | [N+](=O)([O-])C1=CC=C(C2=C1C=CO2)CC#N | C10H6N2O3
reactant | acetic anhydride | 5.88 mmol, 600 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(7-Cyanomethylbenzofur-4-yl)acetamide | 430 mg, 67% | C(#N)CC1=CC=C(C=2C=COC21)NC(C)=O | C12H10N2O2
